US06949577B2
Methyl (2S)-2-[{2-[(tert-butoxycarbonyl)amino]ethyl}(methyl)amino]-3-(1H-imidazol-4-yl)propanoate
A solution of methyl (2S)-3-(4-imidazolidinyl)-2-(methylamino)propanoate (1 g, 4.55 mmol), of tert-butyl N-(2-oxoethyl)carbamate (833 mg, 5.23 mmol), sodium acetate (1.494 g, 18.22 mmol) and sodium cyanoborohydride (572 mg, 9.10 mmol) in methanol (30 ml) was stirred at 0° C. under a nitrogen atmosphere. The mixture was allowed to warm to room temperature then aqueous hydrochloric acid (5 ml, 1N) was added, followed by saturated aqueous sodium hydrogen carbonate solution. The solution was filtered and the aqueous phase was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), filtered, and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with dichloromethane:methanol (100:5), to afford the title compound, 900 mg, 61% yield.

reactant | methyl (2S)-3-(4-imidazolidinyl)-2-(methylamino)propanoate | 4.55 mmol, 1 g | N1CNC(C1)C[C@@H](C(=O)OC)NC | C8H17N3O2
reactant | tert-butyl N-(2-oxoethyl)carbamate | 5.23 mmol, 833 mg | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | sodium acetate | 18.22 mmol, 1.494 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 9.10 mmol, 572 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | Methyl (2S)-2-[{2-[(tert-butoxycarbonyl)amino]ethyl}(methyl)amino]-3-(1H-imidazol-4-yl)propanoate | 61% yield | C(C)(C)(C)OC(=O)NCCN([C@H](C(=O)OC)CC=1N=CNC1)C | C15H26N4O4
